US04056521
Methyl 2-oxo-3-(2-phenoxyacetamido)-4-anilinothio-α-isopropenyl-1-azetidineacetate (454 mg) was dissolved in methylene chloride (20 ml). To this solution were added methanol (5 ml) and then boron trifluoride etherate (0.124 g) under cooling at 0° C. The mixture was stirred for 3 hours at the same temperature and further stirred for 2 hours at 5° to 10° C. After the reaction, the reaction mixture was washed with 5% sodium bicarbonate aqueous solution and then with water, dried and the solvent was distilled off. The oily residue (25 g) was subjected to column chromatography on silica gel and eluted with chloroform. The eluate was separated into each 50 ml fraction and the seventh and eighth fractions were combined. The solvent was distilled off to give oily methyl 2-methoxymethyl-2-methy-6-(2-phenoxyacetamido)penam-3-carboxylate.

reactant | Methyl 2-oxo-3-(2-phenoxyacetamido)-4-anilinothio-α-isopropenyl-1-azetidineacetate | 454 mg | O=C1N(C(C1NC(COC1=CC=CC=C1)=O)SNC1=CC=CC=C1)C(C(=O)OC)C(=C)C | C23H25N3O5S
reactant | methanol | 5 ml | CO | CH4O
reactant | boron trifluoride etherate | 0.124 g | B(F)(F)F.CCOCC
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-methoxymethyl-2-methy-6-(2-phenoxyacetamido)penam-3-carboxylate | COCC1(S[C@H]2N(C1C(=O)OC)C(C2NC(COC2=CC=CC=C2)=O)=O)C | C18H22N2O6S
